US07235572B2
In analogy to the procedure described in example 2 c], (6-{2-[2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-indol-1-yl)-acetic acid tert-butyl ester was treated with LiOH to obtain (6-{2-[2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-indol-1-yl)-acetic acid as brown solid.

reactant | (6-{2-[2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCCC=1N=C(SC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H25F3N2O3S
reactant | LiOH | [Li+].[OH-]
product | (6-{2-[2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-ethoxy}-indol-1-yl)-acetic acid | FC(C1=CC=C(C=C1)C=1SC=C(N1)CCOC1=CC=C2C=CN(C2=C1)CC(=O)O)(F)F | C22H17F3N2O3S
